US05661186
(-)-N-[2-(1,2,3,4-tetrahydro-7-methoxy naphthalen-1-yl)ethyl]methoxyacetamide.
N-[2-(1,2,3,4-tetrahydro-7-methoxy naphthalen-1-yl)ethyl]amine was resolved according to the procedure described using D-tartaric acid and shown to have an enantomeric excess of 92% by HPLC analysis. The HPLC analyses were performed on a Ultron ES-OVM, 150×4.6 mm column using an isocratic mobile phase at 95/5 (A/B) where A is 20 mM KH2PO4, pH=3.0 and B is acetonitrile. This amine was converted into the amide according to General Procedure A using methoxyacetyl chloride. The final product was purified by recrystallization from EtOAc/hexane to give a white solid. m.p.=61°-63° C.; 1H NMR (300 MHz, CDCl3) δ6.96 (d, J=8 Hz, 1H), 6.67 (s, 1H), 6.65 (m, 1H), 6.51 (bs, 1H), 3.86 (s, 2H), 3.75 (s, 3H), 3.42 (m, 2H), 3.38 (s, 3H), 2.78 (m, 1H), 2.66 (bm, 2H), 1.97-1.76 (bm, 4H), 1.68-1.65 (m, 2H); 13C NMR (75 MHz, CDCl3) δ169.42, 157.55, 141.23, 130.01, 129.21, 113.34, 111.80, 71.99, 59.15, 55.28, 36.93, 36.45, 35.64, 28.72, 27.51, 20.00; IR (KBr) 1656 cm-1 ; MS (DCI) m/e 278 (MH); Analysis calc'd for C16H23N1O3 : C, 69.29; H, 8.36; N, 5.05; found: C, 69.15; H, 8.33; N, 4.89; [α] (25° C., 589 nm, CHCl3)=-8.33.

reactant | N-[2-(1,2,3,4-tetrahydro-7-methoxy naphthalen-1-yl)ethyl]amine | COC1=CC=C2CCCC(C2=C1)CCN | C13H19NO
reactant | D-tartaric acid | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
reactant | Ultron | C=CCl | C2H3Cl
reactant | KH2PO4 | 20 mM | OP(=O)(O)[O-].[K+]
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | C(C)#N | C2H3N
product | (-)-N-[2-(1,2,3,4-tetrahydro-7-methoxy naphthalen-1-yl)ethyl]methoxyacetamide | COC1=CC=C2CCCC(C2=C1)CCNC(COC)=O | C16H23NO3
